US06264914B1
2-(4-aminophenyl)-1-benzyl-4-chloro-imidazole-5-acetic acid hydrochloride (Compound 12)
A mixture of 1-benzyl-2-(4-nitrophenyl)-5-imidazole-acetic acid (2.1 g, 5.0 mmol), 10% palladium on carbon (0.10 g), 12 M HCl (3.0 ml), 96% ethanol (50 ml) and water (50 ml) was hydrogenated at 55 psi for 1.5 hours on a Parr shaker hydrogenation apparatus. The mixture was filtered through a celite pad and then through a fluted filter paper. Evaporation left the title compound, Compound 12, as 1.0 g orange solid.

reactant | 1-benzyl-2-(4-nitrophenyl)-5-imidazole-acetic acid | 5.0 mmol, 2.1 g | C(C1=CC=CC=C1)N1C(=NC=C1CC(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C18H15N3O4
reactant | HCl | 12 M, 3.0 ml | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 2-(4-aminophenyl)-1-benzyl-4-chloro-imidazole-5-acetic acid hydrochloride | Cl.NC1=CC=C(C=C1)C=1N(C(=C(N1)Cl)CC(=O)O)CC1=CC=CC=C1 | InChI=1S/C18H16ClN3O2.ClH/c19-17-15(10-16(23)24)22(11-12-4-2-1-3-5-12)18(21-17)13-6-8-14(20)9-7-13;/h1-9H,10-11,20H2,(H,23,24);1H
